US08232284B2
Using 4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-ol, 5-[2-(1,3-dioxolan-2-yl)ethoxy]-2,3-difluoropyridine and tert-butyl 3-[(methylsulfonyl)oxy]azetidine-1-carboxylate, and in the same manner as in Example 6-5) or according to a method similar to it or according to a combination thereof with an ordinary method, 6-({5-[(1-ethylazetidin-3-yl)oxy]-3-fluoropyridin-2-yl}oxy)-N-(1-methyl-1H-pyrazol-3-yl)quinazoline-4-amine was obtained.

reactant | 4-[(1-methyl-1H-pyrazol-3-yl)amino]quinazolin-6-ol | CN1N=C(C=C1)NC1=NC=NC2=CC=C(C=C12)O | C12H11N5O
reactant | 5-[2-(1,3-dioxolan-2-yl)ethoxy]-2,3-difluoropyridine | O1C(OCC1)CCOC=1C=C(C(=NC1)F)F | C10H11F2NO3
reactant | tert-butyl 3-[(methylsulfonyl)oxy]azetidine-1-carboxylate | CS(=O)(=O)OC1CN(C1)C(=O)OC(C)(C)C | C9H17NO5S
product | 6-({5-[(1-ethylazetidin-3-yl)oxy]-3-fluoropyridin-2-yl}oxy)-N-(1-methyl-1H-pyrazol-3-yl)quinazoline-4-amine | C(C)N1CC(C1)OC=1C=C(C(=NC1)OC=1C=C2C(=NC=NC2=CC1)NC1=NN(C=C1)C)F | C22H22FN7O2
